US08604062B2
6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid
To a suspension of sodium hydride (55% dispersion in mineral oil, 1.16 g, 26.5 mmol) in THF (30 mL) was added a solution of [3-(4-chloro-phenyl)-isoxazol-4-yl]-methanol (24.1 mmol) in THF (60 mL) at 0° C. and the reaction mixture warmed to room temperature over 30 min. Then a solution of methyl 6-chloronicotinate (4.65 g, 26.5 mmol) in THF (60 mL) was added dropwise at 0° C. and the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was then poured into aqueous sodium chloride (saturated) and the mixture was extracted with ethyl acetate. The combined organic layers were then washed with water and brine and then dried over sodium sulfate, filtered and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=4:1 to 2:1) afforded 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (72%) which was obtained as a light yellow solid. To a suspension of 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (1.0 mmol) in THF (3 mL) and methanol (3 mL) was added a solution of lithium hydroxide monohydrate (85.1 mg, 2.0 mmol) in water (3 mL) and the resulting mixture stirred at room temperature overnight. The mixture was acidified to pH 4 with HCl (1 N, 30 mL) and the resulting mixture was filtered. The solid was dried to afford the title compound (100%) which was obtained as a light yellow solid. MS: m/e=331.1 [M−H]−.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 1.0 mmol | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl)=O | C17H13ClN2O4
reactant | lithium hydroxide monohydrate | 2.0 mmol, 85.1 mg | O.[OH-].[Li+]
reactant | HCl | 1 N, 30 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 100% | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11ClN2O4
